US07399780B2
1-[(6-Chloropyridin-3-yl)sulfonyl]-4-(3-methylbutyl)piperazine
To a solution of 1-(3-methylbutyl)piperazine (0.41 g, 2.60 mmol; described in: Yamane, T. et al. Chem. Pharm. Bull. 1993, 41, 148-155) in methylene chloride (15 mL) cooled on an ice-bath was 6-chloropyridine-3-sulfonyl chloride (0.50 g, 2.36 mmol; described in: Naegeli, C. et al. Helv. Chim. Actal. 1938, 21, 1746-1750) dissolved in methylene chloride (10 mL) added slowly. The reaction was stirred for 30 min and a 5% HCl(aq) solution (30 mL) was added and the phases were separated. The aqueous layer was alkalyzed with a saturated aqueous NaHCO3 solution until pH 9 and the mixture was extracted with methylene chloride. The organic layers were combined, dried (Na2SO4) and the solvent was removed in vacuo affording 650 mg (83% yield) of the title compound as a white solid: 1H NM (CDCl3, 400 MHz) δ 8.75 (d, J=2 Hz, 1 H), 7.97 (dd, J=8, 2 Hz, 1 H), 7.51 (d, J=8 Hz, 1 H), 3.33-3.05 (m, 4 H), 2.86-2.29 (m, 6 H), 1.66-1.50 (m, 1 H), 1.5-1.28 (m, 2 H), 0.88 (d, J=7 Hz, 6 H); MS (ES) mz 332 (M++1).

reactant | 1-(3-methylbutyl)piperazine | 2.60 mmol, 0.41 g | CC(CCN1CCNCC1)C | C9H20N2
reactant | 6-chloropyridine-3-sulfonyl chloride | 2.36 mmol, 0.50 g | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
reactant | HCl | Cl | ClH
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[(6-Chloropyridin-3-yl)sulfonyl]-4-(3-methylbutyl)piperazine | 650 mg, 83% yield | ClC1=CC=C(C=N1)S(=O)(=O)N1CCN(CC1)CCC(C)C | C14H22ClN3O2S
